US09108983B2
Step A: N-{4-[(tert-Butyldimethylsilyl)oxy]phenyl}-2-chloropyrimidin-4-amine
4-Aminophenol (8.8 g, 80.6 mmol) and triethylamine (18.6 mL, 133.4 mmol) are added to a solution of 2,4-dichloropyrimidine (10.0 g, 67.1 mmol) in ethanol (150 mL). The reaction mixture is heated at 150° C. for 14 hours in a sealed flask. The batch is then cooled to ambient temperature and the solvent is evaporated off in vacuo. Dichloromethane (200 mL) is added to the residue, and then imidazole (9.1 g, 133.7 mmol) and tert-butyl(dimethyl)silyl chloride (12.1 g, 80.3 mmol) are added. The mixture is stirred for 15 hours at ambient temperature. The reaction mixture is diluted with water (200 mL). The phases are separated and the organic phase is washed with brine (1×100 mL). It is then dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by chromatography over silica gel using ethyl acetate and heptane as eluants to obtain a solid. The latter is triturated in heptane, filtered off and rinsed with heptane to yield the expected compound in the form of a solid.

reactant | 4-Aminophenol | 80.6 mmol, 8.8 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | triethylamine | 133.4 mmol, 18.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloropyrimidine | 67.1 mmol, 10.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | imidazole | 133.7 mmol, 9.1 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(dimethyl)silyl chloride | 80.3 mmol, 12.1 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | N-{4-[(tert-Butyldimethylsilyl)oxy]phenyl}-2-chloropyrimidin-4-amine | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC1=NC(=NC=C1)Cl | C16H22ClN3OSi
